US04795815
Allyl 3-(propionyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride
Under a nitrogen atmosphere, allyl 3-(propionyl)-7-(R,S)-(t-butoxycarbonylamino)-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate (330 mg, 0.87 mmol) was combined with 3N hydrochloric acid in glacial acetic acid (15 ml). The solution was stirred for 25 minutes at room temperature then concentrated in vacuo. The remaining volatiles on the concentrate were removed by azeotropic distillation with methylene chloride (2×) to yield the title compound.

reactant | allyl 3-(propionyl)-7-(R,S)-(t-butoxycarbonylamino)-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate | 0.87 mmol, 330 mg | C(CC)(=O)C1=C(N2C(C(CN2C1)NC(=O)OC(C)(C)C)=O)C(=O)OCC=C | C18H25N3O6
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | Allyl 3-(propionyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride | Cl.C(CC)(=O)C1=C(N2C(C(CN2C1)N)=O)C(=O)OCC=C | InChI=1S/C13H17N3O4.ClH/c1-3-5-20-13(19)11-8(10(17)4-2)6-15-7-9(14)12(18)16(11)15;/h3,9H,1,4-7,14H2,2H3;1H
